US05182291
a) 2-Isopropyl-3-(4-tosyloxybenzenesulphonyl)quinoline
In a sealed tube a mixture of 0.02 mol of 2-aminobenzaldehyde and 0.02 mol of 1-(4-tosyloxybenzenesulphonyl)-3-methyl-butan-2-one was heated at 185° C. for 2 hours. The mixture was then taken up in dry ethyl ether and filtered. M.P. of the hydrochloride: about 90° C.

reactant | 2-aminobenzaldehyde | 0.02 mol | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | 1-(4-tosyloxybenzenesulphonyl)-3-methyl-butan-2-one | 0.02 mol | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=CC=C(C=C1)S(=O)(=O)CC(C(C)C)=O | C18H20O6S2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-Isopropyl-3-(4-tosyloxybenzenesulphonyl)quinoline | C(C)(C)C1=NC2=CC=CC=C2C=C1S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C25H23NO5S2
